************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SEDFFTRX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:34 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SEDFFTRX2
* View Name:    schematic
************************************************************************

.SUBCKT SEDFFTRX2 CK D E Q QN RN SE SI VDD VSS
*.PININFO CK:I D:I E:I RN:I SE:I SI:I VDD:I VSS:I Q:O QN:O
Mmn14 Dpb SE net658 VSS g45n1svt m=1 l=45n w=145n
Mmn13 net658 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn12 Dpb SEb net650 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net650 Dp VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 Db D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn7 Dp Db net638 VSS g45n1svt m=1 l=45n w=145n
Mmn6 net638 E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn4 net634 Eb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 Dp qbint net634 VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN net582 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn50 net618 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 CKb net618 VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKbb net606 VSS g45n1svt m=1 l=45n w=145n
Mmn35 net606 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 RNb RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 Eb E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn3 Dp RNb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn56 net582 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 n20 CKb Dpb VSS g45n1svt m=1 l=45n w=145n
Mmn40 n30 CKbb mout VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp13 net557 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp14 Dpb SEb net557 VDD g45p1svt m=1 l=45n w=215n
Mmp11 net549 Dp VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Dpb SE net549 VDD g45p1svt m=1 l=45n w=215n
Mmp1 Db D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN net582 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp50 net529 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n30 CKbb net529 VDD g45p1svt m=1 l=45n w=215n
Mmp35 net521 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp36 n20 CKb net521 VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp2 RNb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp7 Dp Db net505 VDD g45p1svt m=1 l=45n w=215n
Mmp6 Dp E net505 VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 Eb E VDD VDD g45p1svt m=1 l=45n w=215n
Mmp4 net505 Eb net493 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net505 qbint net493 VDD g45p1svt m=1 l=45n w=215n
Mmp3 net493 RNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp56 net582 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Dpb VDD g45p1svt m=1 l=45n w=215n
.ENDS

